US07297713B2
A mixture of cyanogen bromide (1.89 g, 17.9 mmol), and 2-n-propylaniline (3.87 g, 28.65 mmol) in ether (50 mL) was stirred for 2.5 hours under nitrogen atmosphere. The mixture was poured into water and extracted with diethylether. The solvent was dried over magnesium sulfate and concentrated in vacuo at room temperature to give 2-propylphenylcyanamide (1.2 g, 26%) as an off white solid.

reactant | cyanogen bromide | 17.9 mmol, 1.89 g | N#CBr | CBrN
reactant | 2-n-propylaniline | 28.65 mmol, 3.87 g | C(CC)C1=C(N)C=CC=C1 | C9H13N
reactant | water | O | H2O
solvent | ether | 50 mL | CCOCC | C4H10O
product | 2-propylphenylcyanamide | 1.2 g, 26% | C(CC)C1=C(C=CC=C1)NC#N | C10H12N2
